US05849769
2-(2-Aminoethyl)-4-ethoxy-3-fluoropyridine
A mixture of 825 mg (3.15 mmole) of N-[(4-Ethoxy-3-fluoropyrid-2-yl)eth-2-yl]-2,5-dimethylpyrrole, 1.4 g (20.1 mmole) of hydroxylamine hydrochloride, 700 mg (12.5 mmole) of potassium hydroxide, 20 ml of ethanol, and 8 ml of water was refluxed for 3 days under nitrogen. The solution was cooled to room temperature, concentrated, and partitioned between 50 ml of 2N hydrochloric acid and ethyl acetate (3×). The aqueous layer was basified with 5N sodium hydroxide, extracted with ethyl acetate (3×), dried over sodium sulfate, and concentrated. The resulting red oil was found to be the titled compound with a small amount of 2,5-hexanedione dioxime also present. The oil was used as such for reaction without further purification: IR (KBr, cm-1) 2989, 1609, 1495, 1306, 1075; 1H NMR (300 MHz, DMSO-d6) δ 8.18 (d, 1H), 7.05 (t, 1H), 4.20 (q, 2H), 2.60-3.00 (m, 6H), 1.38 (t, 3H); MS (FD) m/e 185 (Mt).

reactant | N-[(4-Ethoxy-3-fluoropyrid-2-yl)eth-2-yl]-2,5-dimethylpyrrole | 3.15 mmole, 825 mg | C(C)OC1=C(C(=NC=C1)C(C)N1C(=CC=C1C)C)F | C15H19FN2O
reactant | hydroxylamine hydrochloride | 20.1 mmole, 1.4 g | Cl.NO
reactant | potassium hydroxide | 12.5 mmole, 700 mg | [OH-].[K+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 8 ml | O | H2O
product | 2-(2-Aminoethyl)-4-ethoxy-3-fluoropyridine | NCCC1=NC=CC(=C1F)OCC | C9H13FN2O
